US06133303
Step 1: Ethyl 2-(1H-1-Imidazolyl)propanoate
A suspension of 16.0 g (0.4 mol) of NaH.oil (60%) was washed with hexane to remove the oil and then resuspended in 400 mL of THF. This was then treated dropwise with a solution of 27.23 g (0.4 mol) of imidazole in 150 mL of THF and then refluxed for 1 hour. This was then treated dropwise with a solution of 72.4 g (0.4 mol) of ethyl 2-bromopropanoate in 100 mL of THF and the mixture heated at reflux for 2.5 hours. The mixture was filtered and the solvent removed under reduced pressure. The residue was taken up in Et2O and washed with H2O, then saturated NaCl. Drying over MgSO4 and treatment with charcoal gave the crude product. This was triturated with pentane and the pentane removed under reduced pressure to give 38.56 g (57.3% yield) of the product as an oil. The structure was confirmed by NMR and mass spectroscopy. MS m/z 169 (M+H+).

reactant | NaH | 0.4 mol, 16.0 g | [H-].[Na+]
reactant | imidazole | 0.4 mol, 27.23 g | N1C=NC=C1 | C3H4N2
reactant | ethyl 2-bromopropanoate | 0.4 mol, 72.4 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Ethyl 2-(1H-1-Imidazolyl)propanoate | 38.56 g, 57.3% yield | N1(C=NC=C1)C(C(=O)OCC)C | C8H12N2O2
